.title Basic amp
.model nmos nmos (level=14 version=4.8.2)
.model pmos pmos (level=14 version=4.8.2)
M3 d1 d1 vdd vdd pmos W=[1:1:5]u L=0.18u
M4 d2 d1 vdd vdd pmos W=[1:1:5]u L=0.18u
M1 d1 in1 midp 0 nmos W=[1:1:5]u L=0.18u
M2 d2 in2 midp 0 nmos W=[1:1:5]u L=0.18u
M5 midp bias 0 0 nmos W=[1:0.5:2]u L=0.18u
M6 vdd d2 out 0 nmos W=[1:1:5]u L=0.18u
M7 out bias 0 0 nmos W=[1:1:5]u L=0.18u

vbias bias 0 DC 0.9
vdd vdd 0 1.8
Vcm cm 0 DC 0.9
Eidp cm in1 diffin 0 1
Eidn cm in2 diffin 0 -1
Vid diffin 0 DC 0 AC 1
.dc Vcm 0 1.8 0.001